US04436939
166 g of 1-(p-prenylphenyl)ethanol was dissolved in a mixture of 870 ml of acetone and 34.5 g of pyridine. While the solution was maintained at 0° C., 60.1 of phosphorus trichloride was added over the course of about 2 hours. The mixture was stirred at room temperature for 2 hours. Acetone was distilled off, and n-hexane and cold water were added to the mixture. The n-hexane layer was washed successively with a 1.6% aqueous solution of sodium hydroxide and water, dried and concentrated to give 174.6 g of 1-chloro-1-(p-prenylphenyl)ethane.

reactant | 1-(p-prenylphenyl)ethanol | 166 g | C(C=C(C)C)C1=CC=C(C=C1)C(C)O | C13H18O
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
solvent | acetone | 870 ml | CC(=O)C | C3H6O
solvent | pyridine | 34.5 g | N1=CC=CC=C1 | C5H5N
product | 1-chloro-1-(p-prenylphenyl)ethane | 174.6 g | ClC(C)C1=CC=C(C=C1)CC=C(C)C | C13H17Cl
